US06133315
a) 2-Chlorobenzenesulfonic Acid 3-[(3-cyanophenyl)methoxy]-5-methylphenyl Ester
Diethyl azodicarboxylate (349 mg, 2.0 mmol) was added to a solution of 2-chlorobenzenesulfonic acid 3-hydroxy-5-methylphenyl ester (900 mg, 3.0 mmol), as prepared in step (c) of Example 1,3-cyanobenzyl alcohol (400 mg, 3.0 mmol; Yoon et al., J. Org. Chem. 38:2786-2792 (1973)), and triphenylphosphine (525 mg, 2.0 mmol) in tetrahydrofuran (20 mL) at 0° C. The mixture was stirred at 0° C. for 2 h and at room temperature for 3 h. The reaction mixture was quenched with water (50 mL) and extracted with ethyl acetate (3×50 mL). The organic phase was washed with saturated NaHCO3 (2×50 mL), brine (2×50 mL) and dried over Na2SO4. The solvent was removed in vacuo and the residue was purified by flash column chromatography (2:1 ethyl acetate/hexane) to give the title compound as a white solid (1.10 g, 89%). 1H-NMR (300 MHz, CDCl3) δ 2.26 (s, 3 H), 4.99 (s, 2 H), 6.55 (t, 1 H, J=2.3 Hz), 6.60 (t, 1 H, J=0.7 Hz), 6.67 (t, 1 H, J=0.7 Hz), 7.39 (m, 1 H), 7.50 (t, 1 H, J=7.7 Hz), 7.61 (m, 5 H), and 7.96 (d, 1 H, J=1.3 Hz).

reactant | Diethyl azodicarboxylate | 2.0 mmol, 349 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-chlorobenzenesulfonic acid 3-hydroxy-5-methylphenyl ester | 3.0 mmol, 900 mg | OC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | C13H11ClO4S
reactant | triphenylphosphine | 2.0 mmol, 525 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-Chlorobenzenesulfonic Acid 3-[(3-cyanophenyl)methoxy]-5-methylphenyl Ester | 1.10 g, 89% | C(#N)C=1C=C(C=CC1)COC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | C21H16ClNO4S
